US08076323B2
For the synthesis of the protected acid side-chain 1-methyl-2-(tetrahydropyran-2′-yloxy)-cyclohexane carboxylic acid, ethyl 2-oxocyclohexane carboxylate (8.5 g, 50 mmol) was dissolved in dry THF at ambient temperature under N2. Potassium tert-butoxide (75 mmol) was added slowly and the reaction was stirred for 5 minutes. Iodomethane (100 mmol) was then added and the reaction was stirred at ambient temperature for 1 hour. The reaction solvent was removed under reduced pressure and the residue was partitioned between water and hexane. The organic layer was dried over sodium sulfate and reduced under reduced pressure to give racemic ethyl 1-methyl-2-oxo-cyclohexanecarboxylate as a colourless oil (8.11 g 88%); δH (400 MHz, CDCl3) 4.25-4.12 (2H, m, OCH2CH3), 2.55-2.40 (3H, m, CH2CO and one other cyclohexane peak), 2.05-1.95 (1H, m, cyclohexane), 1.77-1.57 (3H, m, cyclohexane), 1.50-1.40 (1H, m, cyclohexane), 1.28 (3H, s, CCH3) and 1.25 (1H, t, J 7, CH2CH3). Ethyl 1-methyl-2-oxo-cyclohexanecarboxylate (5.52 g, 30 mmol) was dissolved in ethanol (100 ml) at ambient temperature and sodium borohydride (1.14 g, 30 mmol) was added slowly. After 1 hour the reaction solvent was removed in vacuo and the residue was partitioned between water and dichloromethane. The organic extracts were dried over sodium sulphate and reduced to give ethyl 2-hydroxy-1-methylcyclohexanecarboxylate as a mixture of diastereoisomers (5.37 g 96%). This material was then protected and the ester hydrolysed as follows: Ethyl 2-hydroxy-1-methylcylclohexanecarboxylate (16.7 mmol) was dissolved in dichloromethane along with 3,4-dihydro-2H-pyran (17 mmol) and para-toluene-sulphonic acid (5 mg), and the reaction was stirred at ambient temperature for 16 hours. The solvent was removed under reduced pressure to give a residue to which was added ethanol (40 ml), water (10 ml) and potassium hydroxide (20 mmol). The mixture was heated at reflux overnight and allowed to cool. The reaction solvent was removed under reduced pressure and the residue was partioned between water and diethyl ether. The aqueous layer was acidified to pH 2 and then extracted with diethyl ether. This ether layer was dried over sodium sulphate and reduced in vacuo to give crude 1-methyl-2-(tetrahydropyran-2′-yloxy)-cyclohexane carboxylic acid (2.52 g) as a mixture of diastereoisomers. This material was used in the synthesis of (S)-3-(2′-hydroxy-1′-methylcyclohexanecarbonyl)amino-caprolactam above

reactant | Ethyl 1-methyl-2-oxo-cyclohexanecarboxylate | 30 mmol, 5.52 g | CC1(C(CCCC1)=O)C(=O)OCC | C10H16O3
reactant | sodium borohydride | 30 mmol, 1.14 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-hydroxy-1-methylcyclohexanecarboxylate | OC1C(CCCC1)(C(=O)OCC)C | C10H18O3
